US20010020042A1
5 a) 1 eq. of triethyl 2-phosphonopropionate was deprotonated at 0° C. with 1 eq. of n-butyllithium in hexane and then treated at RT with 1 eq. of 3,5-difluorobenzaldehyde. After the aldehyde had completely reacted, the mixture was worked up with water and extracted three times by shaking with toluene. After the combined organic phases had been dried over magnesium sulfate, the solvent was removed under vacuum and the residual crude product was separated by chromatography on silica gel using EE/HEP mixtures as the eluent. Ethyl E-3-(3,5-difluorophenyl)-2-methylacrylate was isolated.

reactant | triethyl 2-phosphonopropionate | 1 eq. | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | n-butyllithium | 1 eq. | C(CCC)[Li]
reactant | 3,5-difluorobenzaldehyde | 1 eq. | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | Ethyl E-3-(3,5-difluorophenyl)-2-methylacrylate | FC=1C=C(C=C(C1)F)/C=C(/C(=O)OCC)\C | C12H12F2O2
